US03988143
Preparation of Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-but-3-enyl-6-ethoxy-2-(1H)-pyrimidinone
Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-but-3-enyl-6-hydroxy-2(1H)-pyrimidinone (7 grams), ethyl alcohol (50 ml) and toluenesulfonic acid (0.2 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermomater and reflux condenser. The reaction mixture is then heated at reflux for a period of about 24 hours. After this time the mixture is stripped of unreacted alcohol under reduced pressure to yield a solid product. This product is then recrystallized to yield the desired product tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-but-3-enyl-6 -ethoxy-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-but-3-enyl-6-hydroxy-2(1H)-pyrimidinone | 7 grams | COC1=NN=C(S1)N1C(N(CCC1O)CCC=C)=O | C11H16N4O3S
reactant | toluenesulfonic acid | 0.2 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | tetrahydro-1-(5-methoxy-1,3,4-thiadiazol-2-yl)-3-but-3-enyl-6 -ethoxy-2(1H)-pyrimidinone | COC1=NN=C(S1)N1C(N(CCC1OCC)CCC=C)=O | C13H20N4O3S
